* C:\daniel\tampere_summer\ltspice_design\differential_stage\differential_stage.asc
V1 Vin+ 0 SINE(0.2 40u 1meg) AC 10u 0
V2 Vin- 0 SINE(0.2 40u 1meg 0 0 180) AC 10u 180
V3 Vdd 0 1
M1 Vout Vin+ N003 Vdd pmos45bulk l=200n w=4900.0n as=1.37p ad=1.37p ps=10.36u pd=10.36u
M2 N005 Vin- N003 Vdd pmos45bulk l=200n w=4900.0n as=1.37p ad=1.37p ps=10.36u pd=10.36u
M3 Vout N005 0 0 nmos45bulk l=200n w=520.0n as=145.60f ad=145.60f ps=1.60u pd=1.60u
M4 N005 N005 0 0 nmos45bulk l=200n w=520.0n as=145.60f ad=145.60f ps=1.60u pd=1.60u
M5 N001 N001 Vdd Vdd pmos45bulk l=200n w=4700.0n as=1.32p ad=1.32p ps=9.96u pd=9.96u
I1 N001 0 50µ
M6 N003 N001 Vdd Vdd pmos45bulk l=200n w=4700.0n as=1.32p ad=1.32p ps=9.96u pd=9.96u
M9 N002 N004 0 0 nmos45bulk l=200n w=5000.0n as=1.40p ad=1.40p ps=10.56u pd=10.56u
M10 N002 N001 Vdd Vdd pmos45bulk l=200n w=18u as=2.52p ad=2.52p ps=18.56u pd=18.56u
C1 N002 N004 1p
R1 Vopamp 0 100
M7 Vdd N002 Vopamp 0 nmos45bulk l=200n w=5000.0n as=1.40p ad=1.40p ps=10.56u pd=10.56u
M8 0 N002 Vopamp Vdd pmos45bulk l=200n w=37u as=2.52p ad=2.52p ps=18.56u pd=18.56u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Asus\OneDrive - TUNI.fi\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ../libs/45nm_bulk.pm
;ac oct 100 1k 1G
.tran 5u
.backanno
.end
